* C:\users\vvolpone\Documents\Projects\CNC Mill\Linux_Controller\DC_SPEED_CONTROLLER_V2.asc
* Generated by LTspice 26.0.1 for Windows.
L1 Vtorq N024 0.01 Rser=0
RB1 N024 N026 0.002
VSENSE2 N026 0 0
H_TORQ1 Vtorq 0 VSENSE1 0.29
FPOS1 0 Vangpos VSENSE2 1
CPOS1 Vangpos 0 1
RPOS1 Vangpos 0 1Meg
V4 v_pwm 0 PULSE(0 3.3 0 1us 1us 25us 50us)
V5 vdi 0 PULSE(0 3.3 0 20us 20us 500ms 1000ms)
LA2 1 N013 0.5m Rser=0
RA2 N013 N014 0.6
VSENSE1 N015 2 0
H_EMF2 N014 N015 VSENSE2 0.29
R1 N005 N004 22
R5 N022 N021 22
R6 P001 N023 100
R7 N006 N007 22
R9 N019 N020 22
R10 P002 vdi 100
V8 N017 0 3.3
Q1 v_pwm N012 N008 0 NPN
R11 N012 vdi 10
Q2 N010 N011 0 0 NPN
R8 N011 vdi 100
Q3 N023 N025 0 0 NPN
R2 vdi N025 10
V1 N002 1 12
V2 N003 2 15
V3 N018 0 15
V7 N016 0 15
R3 N009 N008 100
R12 v_pwm N010 100
R13 N017 N023 100
X§U1 1 N022 0 irfp260n ;§pnba D)G)S
X§U6 N001 N005 1 irfp260n ;§pnba D)G)S
X§U7 N001 N006 2 irfp260n ;§pnba D)G)S
X§U8 2 N019 0 irfp260n ;§pnba D)G)S
V6 N001 0 120
X§U9 NC_01 N009 0 NC_02 1 N004 N004 N002 FOD3182 ;§pnba 1)Vd)g)4)Ms)Mg1)Mg2)Vc
X§U2 NC_03 P001 0 NC_04 0 N021 N021 N016 FOD3182 ;§pnba 1)Vd)g)4)Ms)Mg1)Mg2)Vc
X§U3 NC_05 N010 0 NC_06 2 N007 N007 N003 FOD3182 ;§pnba 1)Vd)g)4)Ms)Mg1)Mg2)Vc
X§U4 NC_07 P002 0 NC_08 0 N020 N020 N018 FOD3182 ;§pnba 1)Vd)g)4)Ms)Mg1)Mg2)Vc
.model NPN NPN
.model PNP PNP
.lib C:\users\vvolpone\AppData\Local\LTspice\lib\cmp\standard.bjt
* OptoIso Circuit
.tran 1000ms
* F - current controlled current source\nI(VENSE2) - angular velocity modeled as current  (rad/sec)\nVoltage across CPOS - angular position modeled as voltage (rad)
* Direction
* Speed (PWM)
* Vs_mic
.include FOD3182.lib
* Library below included based on ModelFile attribute of instance X§U9, X§U2, X§U3, X§U4 (C:\users\vvolpone\Documents\Projects\CNC Mill\Linux_Controller\FOD3182.asy)
.lib AvagoHCPL3120_MOD.txt
* Library below included based on ModelFile attribute of instance X§U1, X§U6, X§U7, X§U8 (C:\users\vvolpone\Documents\Projects\CNC Mill\Linux_Controller\irfp260n.asy)
.lib irfp260n.spi
.backanno
.end
